US08791102B2
Step (a) A flask was charged with (S)-benzyl 4-(2-(1H-imidazol-4-yl)acetyl)-3-(4-(4-fluorophenoxy)phenylcarbamoyl)piperazine-1-carboxylate (0.80 g, 1.4 mmol), prepared as in Example 13, methanol (10 mL) and palladium on carbon (10%, 100 mg) and the mixture was stirred at ambient temperature. The reaction mixture was placed under a hydrogen atmosphere (balloon) for 14 hours and then exposed to air, filtered through celite and concentrated. Product was purified from residue by reverse phase HPLC to give (S)-1-(2-(1H-imidazol-4-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)piperazine-2-carboxamide (0.5 g, 83% yield) as an off-white solid. 1H-NMR (400 MHz, CDCl3): 10.02 (s, 1H), 9.20 (s, 1H), 7.63-7.56 (m, 2H), 7.52 (s, 1H), 7.05-6.93 (m, 7H), 5.34 (s, 1H), 4.05-4.00 (m, 1H), 3.94-3.86 (m, 1H), 3.78-3.71 (m, 2H), 3.28-3.20 (m, 1H), 3.00-2.94 (m, 1H), 2.89-2.74 (m, 2H), 2.61-2.53 (m, 1H). MS (EI) for C22H22FN5O3. found 424.2 (MH+).

reactant | (S)-benzyl 4-(2-(1H-imidazol-4-yl)acetyl)-3-(4-(4-fluorophenoxy)phenylcarbamoyl)piperazine-1-carboxylate | 1.4 mmol, 0.80 g | N1C=NC(=C1)CC(=O)N1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)C(NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O | C30H28FN5O5
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (S)-1-(2-(1H-imidazol-4-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)piperazine-2-carboxamide | 0.5 g, 83% yield | N1C=NC(=C1)CC(=O)N1[C@@H](CNCC1)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C22H22FN5O3
